US09193728B2
Preparation of 3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline
3-(Pyridin-4-yl)quinoline (1 g, 0.00485 mol) was dissolved in ethanol (30 mL). To this was added platinum oxide (0.4 g) under nitrogen atmosphere, and the reaction mixture was hydrogenated at 50 psi for 10 h. After completion of reaction (monitored by TLC), the catalyst was removed by filtration, the filtrate concentrated under reduced pressure and the residue purified by column chromatography (30% EtOAc:hexane on silica 100-200 mesh, diameter of column—2.5 cm, height of silica—approx. 5 inch) to provide the desired compound (0.4 g, 40% yield).

reactant | 3-(Pyridin-4-yl)quinoline | 0.00485 mol, 1 g | N1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1 | C14H10N2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 3-(pyridin-4-yl)-1,2,3,4-tetrahydroquinoline | 0.4 g, 40% yield | N1=CC=C(C=C1)C1CNC2=CC=CC=C2C1 | C14H14N2
